US08431563B2
4-(((2R)-1,4-dibenzyl-2-piperazinyl)methyl)-3,3-dimethyl-2-piperazinone (0.500 g, 1.23 mmol) was dissolved in MeOH (25 mL). This solution was passed through an H-Cube™ flow hydrogenator (ThalesNano Technology, Budapest, Hungary) via the solvent inlet using a 10% Pd/C CatCart™ (30 mm cartridge length, source ThalesNano, pre-washed and hydrogenated at full H2 mode for 10 min at 1 mL/min) at 1 mL/min flow rate in full H2 mode at 60° C. The solution collected was concentrated in vacuo to give 3,3-dimethyl-4-((2R)-2-piperazinylmethyl)-2-piperazinone (0.27 g) as a colorless solid.

reactant | 4-(((2R)-1,4-dibenzyl-2-piperazinyl)methyl)-3,3-dimethyl-2-piperazinone | 1.23 mmol, 0.500 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CN1C(C(NCC1)=O)(C)C | C25H34N4O
solvent | MeOH | 25 mL | CO | CH4O
product | 3,3-dimethyl-4-((2R)-2-piperazinylmethyl)-2-piperazinone | 0.27 g | CC1(C(NCCN1C[C@@H]1NCCNC1)=O)C | C11H22N4O
